### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Lifts): Add `mem_lifts_and_support_eq`

### PR DESCRIPTION
**Pull request by justus-springer**
`mem_lifts_and_degree_eq` was already proving the more general statement, so I extracted the proof. I need this for #34877.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Lifts.lean [hunk 1]
```diff
@@ -141,9 +141,9 @@ theorem monomial_mem_lifts_and_degree_eq {s : S} {n : ℕ} (hl : monomial n s 
   rw [degree_monomial, degree_monomial n h]
   exact mt (fun ha ↦ ha ▸ map_zero f) h
 
-/-- A polynomial lifts if and only if it can be lifted to a polynomial of the same degree. -/
-theorem mem_lifts_and_degree_eq {p : S[X]} (hlifts : p ∈ lifts f) :
-    ∃ q : R[X], map f q = p ∧ q.degree = p.degree := by
+/-- A polynomial lifts if and only if it can be lifted to a polynomial of the same support. -/
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Lifts.lean]:
```suggestion
/-- A polynomial that lifts can be lifted to a polynomial of the same support. -/
```

File: Mathlib/Algebra/Polynomial/Lifts.lean [hunk 2]
```diff
@@ -153,6 +153,12 @@ theorem mem_lifts_and_degree_eq {p : S[X]} (hlifts : p ∈ lifts f) :
     simp_rw [Finset.ext_iff, mem_support_iff, q, finset_sum_coeff, coeff_monomial,
       Finset.sum_ite_eq', ite_ne_right_iff, mem_support_iff, and_iff_left_iff_imp, not_imp_not]
     exact fun k h ↦ by rw [← hg, h, map_zero]
+  exact ⟨q, hq, hq'⟩
+
+/-- A polynomial lifts if and only if it can be lifted to a polynomial of the same degree. -/
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Lifts.lean:158]:
```suggestion
/-- A polynomial that lifts can be lifted to a polynomial of the same degree. -/
```

File: Mathlib/Algebra/Polynomial/Lifts.lean [hunk 3]
```diff
@@ -141,9 +141,9 @@ theorem monomial_mem_lifts_and_degree_eq {s : S} {n : ℕ} (hl : monomial n s 
   rw [degree_monomial, degree_monomial n h]
   exact mt (fun ha ↦ ha ▸ map_zero f) h
 
-/-- A polynomial lifts if and only if it can be lifted to a polynomial of the same degree. -/
-theorem mem_lifts_and_degree_eq {p : S[X]} (hlifts : p ∈ lifts f) :
-    ∃ q : R[X], map f q = p ∧ q.degree = p.degree := by
+/-- A polynomial lifts if and only if it can be lifted to a polynomial of the same support. -/
+theorem mem_lifts_and_support_eq {p : S[X]} (hlifts : p ∈ lifts f) :
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Lifts.lean]: This name is also a bit funny. Maybe something like "exists_support_eq_of_mem_lifts"?

**Review by tb65536 — APPROVED** [review]

File: Mathlib/Algebra/Polynomial/Lifts.lean (hunk 3 above)
Comment (justus-springer) [reply Mathlib/Algebra/Polynomial/Lifts.lean]: Sounds good, I'll also rename the other to `exists_degree_eq_of_mem_lifts`

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
